US07060827B2
N4-[2H-1,4-Benzoxazin-3(4H)-one-6-yl]-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine (800 mg, 2.18 mmol) and phosphorus pentasulfide (800 mg, 1.80 mmol) were stirred in pyridine (5 mL) at 70° C. for 2 h. The reaction solution was treated with 1N HCl solution to pH 5. The precipitation was collected with filtration, washed with water, dried to give N4-[2H-1,4-benzoxazin-3(4H)-thione-6-yl]-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine.

reactant | N4-[2H-1,4-Benzoxazin-3(4H)-one-6-yl]-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | 2.18 mmol, 800 mg | O1CC(NC2=C1C=CC(=C2)NC2=NC(=NC=C2F)NC2=CC(=CC=C2)O)=O | C18H14FN5O3
reactant | phosphorus pentasulfide | 1.80 mmol, 800 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | HCl | 1N | Cl | ClH
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N4-[2H-1,4-benzoxazin-3(4H)-thione-6-yl]-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | O1CC(NC2=C1C=CC(=C2)NC2=NC(=NC=C2F)NC2=CC(=CC=C2)O)=S | C18H14FN5O2S
